US06930106B2
4,5-dichloro-2-({[2-[(4-{[(morpholin-4-ylcarbonyl)amino]methyl}phenyl)amino]-5-(trifluoromethyl)phenyl]amino}carbonyl)benzoic acid [xix.]
Into a vial are placed 2-({[2-{[4-(aminomethyl)phenyl]amino}-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid hydrochloride (100 mg, 0.187 mmol), 4-morpholine-carbonylchloride (28 mg, 0.187 mmol), Et3N (0.08 mL, 0.573 mmol), and THF (10 mL). The mixture is heated with efficient stirring at 40° C. for 4 h. The solution is concentrated and purified by preparative thin layer chromatography. The yield is 31 mg of 4,5-dichloro-2-({[2-[(4{[(morpholin-4-ylcarbonyl)amino]methyl}phenyl)amino]-5-(trifluoromethyl)phenyl]amino}carbonyl)benzoic acid, 27%. 1H NMR (400 MHz, DMSO-d6): □ 13.88 (s, 1 H), 10.14 (s, 1 H), 8.09 (s, 2 H), 7.77 (s, 1 H), 7.70 (s, 1 H), 7.44-7.42 (m, 1 H), 7.26-7.23 (m, 3 H), 7.14-7.09 (m, 3 H), 4.22-4.21 (m, 2 H), 3.56-3.54 (m, 4 H), 3.30-3.28 (m, 4 H) 7.44-7.42 (m, 1 H), 7.26-7.23 (m, 3 H), 7.14-7.09 (m, 3 H), 4.22-4.21 (m, 2 H), 3.56-3.54 (m, 4 H), 3.30-3.28 (m, 4 H). HRMS for C27H23Cl2F3N4O5 m/z 611.1071 M+.

reactant | 2-({[2-{[4-(aminomethyl)phenyl]amino}-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid hydrochloride | 0.187 mmol, 100 mg | Cl.NCC1=CC=C(C=C1)NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)C1=C(C(=O)O)C=C(C(=C1)Cl)Cl
reactant | 4-morpholine-carbonylchloride | 0.187 mmol, 28 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | Et3N | 0.573 mmol, 0.08 mL | CCN(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4,5-dichloro-2-({[2-[(4-{[(morpholin-4-ylcarbonyl)amino]methyl}phenyl)amino]-5-(trifluoromethyl)phenyl]amino}carbonyl)benzoic acid | ClC1=CC(=C(C(=O)O)C=C1Cl)C(=O)NC1=C(C=CC(=C1)C(F)(F)F)NC1=CC=C(C=C1)CNC(=O)N1CCOCC1 | C27H23Cl2F3N4O5
